US06265411B1
Sodium hydride (1.44 g of a 60% suspension in mineral oil, 36 mmol) was added in portions over 20 minutes to a solution of 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one (8.46 g, 30 mmol), (prepared as described for the starting material in Example 11), in DMF (70 ml) and the mixture was stirred for 1.5 hours. Chloromethyl pivalate (5.65 g, 37.5 mmol) was added dropwise and the mixture stirred for 2 hours at ambient temperature. The mixture was diluted with ethyl acetate (lOOmi) and poured onto ice/water (400 ml) and 2M hydrochloric acid (4 ml). The organic layer was separated and the aqueous layer extracted with ethyl acetate, the combined extracts were washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with a mixture of ether and petroleum ether, the solid was collected by filtration and dried under vacuum to give 7-benzyloxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (10 g, 84%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one | 30 mmol, 8.46 g | C(C1=CC=CC=C1)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H14N2O3
reactant | Chloromethyl pivalate | 37.5 mmol, 5.65 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | hydrochloric acid | 2M, 4 ml | Cl | ClH
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-benzyloxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 10 g, 84% | C(C1=CC=CC=C1)OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C22H24N2O5
